* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 18.00
R2 N002 N003 10.00k
R3 N002 0 470.00
R4 N003 N004 180.00
R5 N005 N004 1.00k
R6 0 N004 470.00k
R7 N003 N005 27.00k
V1 0 N001 30

.end